US06348485B1
4,5-Dibromo-1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one
A mixture of 3-(6,7-dibromo-2,3-dihydrobenzofuran-5-yl)propionic acid (10.0 g, 28.6 mmols), dichloromethane (35 mL), thionyl chloride (5.11 g, 40.8 mmols) and N,N-dimethylformamide (30 mg) was heated to reflux for 1 hour. After cooling, aluminum chloride (4.66 g, 43.3 mmols) was added to the reaction mixture a trot more than 0° C. and then the mixture was stirred for 30 min. The reaction mixture was poured into precooled methanol (200 mL), then stirred for 30 min. Crystals precipitated were collected by filtration, washed with water (500 mL) followed by methanol (500 mL) to obtain 7.9 g (yield: 89%) of the title compound.

reactant | 3-(6,7-dibromo-2,3-dihydrobenzofuran-5-yl)propionic acid | 28.6 mmols, 10.0 g | BrC1=C(C2=C(CCO2)C=C1CCC(=O)O)Br | C11H10Br2O3
reactant | dichloromethane | 35 mL | ClCCl | CH2Cl2
reactant | thionyl chloride | 40.8 mmols, 5.11 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 43.3 mmols, 4.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | N,N-dimethylformamide | 30 mg | CN(C=O)C | C3H7NO
solvent | methanol | 200 mL | CO | CH4O
product | 4,5-Dibromo-1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one | 7.9 g, yield: 89% | BrC1=C(C=2CCC(C2C2=C1OCC2)=O)Br | C11H8Br2O2
